US09216999B2
1-(Piperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidine-2,4(3H,7H)-dione hydrochloride
1-(1-Benzylpiperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidine-2,4(3H,7H)-dione (360 mg, 0.712 mmol) and 5% palladium-carbon (100 mg) in a mixture of methanol and 10 wt % hydrogen chloride-methanol solution (0.5 mL) were stirred with at room temperature for 2 hours under a hydrogen atmosphere, then at 40° C. for 5 hours and at room temperature for one day. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to give the title compound as a colorless solid (324 mg, quantitative yield).

reactant | 1-(1-Benzylpiperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidine-2,4(3H,7H)-dione | 0.712 mmol, 360 mg | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC(C2=C1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)=O)=O | C27H35N5O3Si
reactant | hydrogen chloride methanol | 0.5 mL | Cl.CO
solvent | methanol | CO | CH4O
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | 1-(Piperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidine-2,4(3H,7H)-dione hydrochloride | 324 mg, quantitative yield | Cl.N1CCC(CC1)N1C(NC(C2=C1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)=O)=O | InChI=1S/C20H29N5O3Si.ClH/c1-29(2,3)11-10-28-13-24-9-6-15-17-16(12-22-18(15)24)19(26)23-20(27)25(17)14-4-7-21-8-5-14;/h6,9,12,14,21H,4-5,7-8,10-11,13H2,1-3H3,(H,23,26,27);1H
